US09446034B2
A solution of 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluorobenzonitrile (4.5 g, 11.69 mmol) in sodium hydroxide −1 M (10 mL, 10.00 mmol) and 1,4-dioxane (10 mL) was refluxed overnight. Ethyl acetate was added and the layers were separated. The organic layer was washed with 1 M NaOH (40 ml). Combined aqueous layers were washed with ethyl acetate, and neutralized with acetic acid. The solid was filtered. 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluorobenzoic acid (3.2 g, 7.53 mmol, 75% yield) was isolated as a yellow solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.24 (d, J=6.57 Hz, 6 H) 2.09 (s, 3 H) 4.34 (quin, J=6.57 Hz, 1 H) 5.86 (s, 1 H) 5.91 (d, J=5.81 Hz, 1 H) 7.35 (td, J=8.02, 4.93 Hz, 1 H) 7.54-7.65 (m, 1 H) 7.81 (d, J=7.58 Hz, 1 H) 7.94 (s, 1 H) 8.45 (s, 1 H) 8.88 (br. s., 1 H) 13.74 (br. s., 1 H); HPLC Rt=2.36 min, MS (ESI): 404.3 [M+H]+.

reactant | 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluorobenzonitrile | 11.69 mmol, 4.5 g | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C#N)C=CC=C1F | C19H18ClFN6
reactant | sodium hydroxide | 10.00 mmol, −1 M, 10 mL | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluorobenzoic acid | 7.53 mmol, 3.2 g, 75% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)O)C=CC=C1F | C19H19ClFN5O2
